US07446102B2
Benzyl{(3S)-3-[(tert-butoxycarbonyl)amino]-4-hydroxybutyl}carbamate
Preparation takes place in analogy to Example 83A from 300 mg (0.85 mmol) of (2S)-4-{[(benzyloxy)carbonyl]amino}-2-[(tert-butoxycarbonyl)amino]butanoic acid in 10 ml of tetrahydrofuran with 86 mg (0.85 mmol) of 4-methylmorpholine, 92 mg (0.85 mmol) of ethyl chloroformate and 1.7 ml (1.70 mmol) of a 1M solution of lithium aluminum hydride in tetrahydrofuran. The product is reacted without further purification.

reactant | (2S)-4-{[(benzyloxy)carbonyl]amino}-2-[(tert-butoxycarbonyl)amino]butanoic acid | 0.85 mmol, 300 mg | C(C1=CC=CC=C1)OC(=O)NCC[C@@H](C(=O)O)NC(=O)OC(C)(C)C | C17H24N2O6
reactant | 4-methylmorpholine | 0.85 mmol, 86 mg | CN1CCOCC1 | C5H11NO
reactant | ethyl chloroformate | 0.85 mmol, 92 mg | ClC(=O)OCC | C3H5ClO2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | Benzyl{(3S)-3-[(tert-butoxycarbonyl)amino]-4-hydroxybutyl}carbamate | C(C1=CC=CC=C1)OC(NCC[C@@H](CO)NC(=O)OC(C)(C)C)=O | C17H26N2O5
